US07452909B2
4-Chloromethyl-2-methyl-pyridine hydrochloride
The title compound was prepared in accordance with the general method of example E from 4-(hydroxymethyl)-2-methylpyridine and thionylchloride.

reactant | 4-(hydroxymethyl)-2-methylpyridine | OCC1=CC(=NC=C1)C | C7H9NO
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloromethyl-2-methyl-pyridine hydrochloride | Cl.ClCC1=CC(=NC=C1)C | InChI=1S/C7H8ClN.ClH/c1-6-4-7(5-8)2-3-9-6;/h2-4H,5H2,1H3;1H
